US08685975B2
To a −78° C. solution of 4-(4-bromo-3,5-dimethoxyphenyl)thiazole (0.096 g, 0.32 mmol) in anhydrous THF (2 mL) under argon was added a solution of LiHMDS (1.0 M in THF, 0.35 mmol) dropwise. After stirring for 30 min, a solution of N,2-dimethoxy-N-methyl-2-(4-morpholinophenyl)acetamide (0.121 g, 0.41 mmol) in anhydrous THF (1.5 mL, 1.0 mL) was added dropwise. After stirring for 35 min, the cold bath was removed and the reaction was allowed to warm to room temp. The mixture was quenched with brine and diluted with EtOAc. The layers were separated and the organic layer was washed with brine, dried over Na2SO4 and concentrated. Purification by chromatography (25-45% EtOAc-hexanes) gave 1-(4-(4-bromo-3,5-dimethoxyphenyl)thiazol-2-yl)-2-methoxy-2-(4-morpholinophenyl)ethanone as a yellow solid (0.050 g, 29% yield). MS: m/z 533.1 [M+H]+.

reactant | 4-(4-bromo-3,5-dimethoxyphenyl)thiazole | 0.32 mmol, 0.096 g | BrC1=C(C=C(C=C1OC)C=1N=CSC1)OC | C11H10BrNO2S
reactant | LiHMDS | 0.35 mmol, 1.0 M | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | N,2-dimethoxy-N-methyl-2-(4-morpholinophenyl)acetamide | 0.41 mmol, 0.121 g | CON(C(C(C1=CC=C(C=C1)N1CCOCC1)OC)=O)C | C15H22N2O4
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | 1-(4-(4-bromo-3,5-dimethoxyphenyl)thiazol-2-yl)-2-methoxy-2-(4-morpholinophenyl)ethanone | 0.050 g, 29% yield | BrC1=C(C=C(C=C1OC)C=1N=C(SC1)C(C(C1=CC=C(C=C1)N1CCOCC1)OC)=O)OC | C24H25BrN2O5S
